US08420655B2
{2-Amino-5-[1-tert-butyl-2-(2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-pyridin-3-yl}-methanol
To a solution of [2-amino-5-(3-amino-4-tert-butylamino-phenyl)-pyridin-3-yl]-methanol (100 mg, 0.35 mmol) in DMF (5 mL) is added 2-[1,2,4]-triazol-1-yl-benzaldehyde (73 mg, 0.42 mmol) at room temperature. Oxone (215 mg, 0.35 mmol) in H2O (1 mL) is added and the solution is stirred for 4 hours. Saturated sodium thiosulfate solution (5 mL) is added and the mixture is extracted with EtOAc (3×10 mL) and H2O (10 mL). The combined organic layer is dried with MgSO4 and is filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford the title compound (16 mg, 10%) as a pale brown foam. LCMS (ESMS): m/z 440.20 (M++1)

reactant | [2-amino-5-(3-amino-4-tert-butylamino-phenyl)-pyridin-3-yl]-methanol | 0.35 mmol, 100 mg | NC1=NC=C(C=C1CO)C1=CC(=C(C=C1)NC(C)(C)C)N | C16H22N4O
reactant | 2-[1,2,4]-triazol-1-yl-benzaldehyde | 0.42 mmol, 73 mg | N1(N=CN=C1)C1=C(C=O)C=CC=C1 | C9H7N3O
reactant | Oxone | 0.35 mmol, 215 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
product | {2-Amino-5-[1-tert-butyl-2-(2-1,2,4-triazol-1-yl-phenyl)-1H-benzimidazol-5-yl]-pyridin-3-yl}-methanol | 16 mg, 10% | NC1=NC=C(C=C1CO)C1=CC2=C(N(C(=N2)C2=C(C=CC=C2)N2N=CN=C2)C(C)(C)C)C=C1 | C25H25N7O
